US05254655
A mixture of 4-nitrobenzylbromide (25.0 g, 0.116 mol), triphenylphosphine (30.4 g, 0.116 mol) and chloroform (120 ml) was refluxed for 2 hours with stirring. The mixture was cooled to room temperature, diluted with THF (250 ml) and cooled in a freezer for 4 hours. The solid was collected and dried under vacuum to give p-nitrobenzyl triphenylphosphonium bromide (54.8 g, 99%).

reactant | 4-nitrobenzylbromide | 0.116 mol, 25.0 g | [N+](=O)([O-])C1=CC=C(CBr)C=C1 | C7H6BrNO2
reactant | triphenylphosphine | 0.116 mol, 30.4 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | chloroform | 120 ml | C(Cl)(Cl)Cl | CHCl3
solvent | THF | 250 ml | C1CCOC1 | C4H8O
product | p-nitrobenzyl triphenylphosphonium bromide | 54.8 g, 99% | [Br-].[N+](=O)([O-])C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1 | InChI=1S/C25H21NO2P.BrH/c27-26(28)22-18-16-21(17-19-22)20-29(23-10-4-1-5-11-23,24-12-6-2-7-13-24)25-14-8-3-9-15-25;/h1-19H,20H2;1H/q+1;/p-1
